US05712347
Example 2: Insoluble Copolymer Containing Grafted Tetraisopropyl Methylenediphosphonate Pendent Groups
Insoluble, cross-linked copolymer beads (70.7 g) obtained by suspension polymerization of 90.5 weight percent vinylbenzyl chloride, 2.0 weight percent divinylbenzene, and 0.5 weight percent benzoyl peroxide (with the ethylstyrenes present in the technical grade divinylbenzene) were placed in a three neck found bottom flash and preswollen with 500 mL of toluene for two hours at room temperature. To this flask, a solution of sodium tetraisopropyl methylenediphosphonate, prepared as in Example 1, was added. The mixture was reacted at reflux for 20 hours. After that time, beads were separated and washed with toluene, and dried. The polymer contained 3.34 mmol of phosphorus/g of dry weight as determined by elemental analysis.

reactant | divinylbenzene | C(=C)C1=C(C=CC=C1)C=C | C10H10
reactant | sodium tetraisopropyl methylenediphosphonate | C(P(OC(C)C)(OC(C)C)=O)P(OC(C)C)(OC(C)C)=O.[Na]
reactant | phosphorus | 3.34 mmol | [P] | P
solvent | toluene | 500 mL | C1(=CC=CC=C1)C | C7H8
product | Tetraisopropyl Methylenediphosphonate | C(P(OC(C)C)(OC(C)C)=O)P(OC(C)C)(OC(C)C)=O | C13H30O6P2
